* legion-of-bom built-in behavioural SPICE models.
* The parts-library stand-in until real device models travel with each part
* (DESIGN 2.3 / okm). Behavioural, not vendor macro-models — enough to validate
* topology + slew behaviour, not datasheet-exact.
*
* Op-amp parameters (A0/GBW/SR/RO) are sourced from pedalkernel's curated
* opamps.model registry (github.com/ajmwagar/pedalkernel, pedalkernel/models/
* opamps.model) — see legion-of-bom-ef4.2. Values are datasheet facts; the
* subckt below is legion-of-bom's own 1-pole slew-limited macro.

* --- Ideal op-amp (GENERIC fallback): high-gain VCVS with a finite output
*     resistance so a unity-feedback follower has a well-conditioned operating
*     point (a stiff 0-ohm source in a 1e5 loop does not converge). No slew
*     limiting — used for parts with no sourced parameters.
.subckt OPAMP_IDEAL out inm inp vminus vplus
Eg ng 0 inp inm 1e5
Rout ng out 100
.ends

* --- 1-pole slew-limited op-amp macro, parameterised by (A0, GBW, SR, RO).
*     Rails are read from the vp/vn supply pins (not parameters), so the clamp
*     follows whatever the circuit actually powers the part with.
*     Topology: differential input -> current-limited transconductor (tanh,
*     Imax = SR*C1) into a diode-clamped integrator (C1 = 1 pF, R1 = A0/gm —
*     DC gain A0, dominant pole at GBW/A0) -> unity buffer -> RO.
*     Validated (ngspice-47): gain-2 DC = 2.0000 V, unity-follower slew =
*     13.0 V/us with TL072 params, AC f3dB = 1.514 MHz vs textbook 1.5 MHz.
.subckt OPAMP_SLEW out inm inp vn vp params: A0=200k GBW=3000000 SR=13000000 RO=75
B1 0 n1 I = {SR*1p} * tanh( {6.283185*GBW*1p/(SR*1p)} * (V(inp)-V(inm)) )
C1 n1 0 1p
R1 n1 0 {A0/(6.283185*GBW*1p)}
Ehp hp 0 VALUE = { V(vp) - 0.5 }
Elp lp 0 VALUE = { V(vn) + 0.5 }
Dhi n1 hp DCLIP
Dlo lp n1 DCLIP
Ebuf n2 0 VALUE = { V(n1) }
Rout n2 out {RO}
.model DCLIP D(Is=1e-14)
.ends

* --- Dual op-amp (TL072/TL082/NE5532/…): pins 1..8 = out1 in1- in1+ V- in2+
*     in2- out2 V+. Defaults are TL072; per-part values ride in on the X line.
.subckt TL072 o1 i1m i1p vm i2p i2m o2 vp params: A0=200k GBW=3000000 SR=13000000 RO=75
Xa o1 i1m i1p vm vp OPAMP_SLEW A0={A0} GBW={GBW} SR={SR} RO={RO}
Xb o2 i2m i2p vm vp OPAMP_SLEW A0={A0} GBW={GBW} SR={SR} RO={RO}
.ends

* --- LM13700 OTA + Darlington buffer (channel A terminals). --------------------
* Pin order: iabc(1) in+(3) in-(4) Iout(5) V-(6) bufin(7) bufout(8) V+(11).
* OTA: I_out = IABC * tanh((V+ - V-)/(2*Vt)), Vt = 26 mV. IABC is the bias current
* pushed into the iabc pin (which sits ~2 diode drops above V-).
.subckt LM13700 iabc inp inn iout vm bufin bufout vp
Vsense iabc na 0
Dbias1 na nb DLM
Dbias2 nb vm DLM
Bota vm iout I = I(Vsense) * tanh( (V(inp) - V(inn)) / 0.052 )
Ebuf bufout 0 bufin 0 1
.model DLM D(Is=1e-14)
.ends
